* File: dff.pex.sp.pex
* Created: Thu Apr 24 01:12:16 2025
* Program "Calibre xRC"
* Version "v2024.4_12.9"
* Nominal Temperature: 25C
* Circuit Temperature: 25C
* 
.subckt PM_DFF%Q 1 4 7 20
c31 20 0 1.36731e-19 $X=-1.704 $Y=-0.768
c32 7 0 1.73721e-19 $layer1=M1_lvsres  $X=-1.762 $Y=-2.11
c33 4 0 0.00501369f $layer1=ptap  $X=-1.661 $Y=-2.111
r34 20 24 0.198762
r35 15 16 0.558621
r36 14 15 0.127301
r37 13 18 0.466385
r38 13 16 0.307837
r39 10 24 1.7
r40 10 14 0.24385
r41 10 11 1.25908
r42 7 11 0.313466
r43 4 7 10
r44 1 18 15
r45 1 13 10
.ends

.subckt PM_DFF%GND! 2 23 24 25 27 29 31 32 41 47 51 54 59 61 67 69 74 77 82 84
+ 89 93 99
c220 51 0 2.27192e-19 $X=-1.214 $Y=-2.112
c221 47 0 0.00312301f $layer1=M1_par  $X=-1.479 $Y=-2.391
c222 32 0 0.00118468f $layer1=ptap  $X=5.504 $Y=-2.111
c223 31 0 0.00227389f $layer1=ptap  $X=4.525 $Y=-2.111
c224 29 0 0.00126534f $layer1=ptap  $X=3.941 $Y=-2.111
c225 27 0 0.00114631f $layer1=ptap  $X=2.089 $Y=-2.111
c226 25 0 0.00114631f $layer1=ptap  $X=-0.028 $Y=-2.111
c227 24 0 0.00114631f $layer1=ptap  $X=-1.111 $Y=-2.111
c228 23 0 0.00227451f $layer1=ptap  $X=-1.596 $Y=-2.111
c229 2 0 0.00245097f $layer1=ttap  $X=5.536 $Y=-2.111
r230 93 94 0.243632
r231 88 89 0.327511
r232 86 99 0.0188364
r233 86 89 1.36789
r234 85 98 0.0271748
r235 84 99 0.0271748
r236 84 85 0.618956
r237 81 82 0.333298
r238 79 98 0.0188364
r239 79 82 1.36692
r240 78 97 0.0271748
r241 77 98 0.0271748
r242 77 78 0.755352
r243 74 75 0.127301
r244 73 75 1.22508
r245 71 97 0.0188364
r246 71 74 0.303113
r247 70 96 0.0271748
r248 69 97 0.0271748
r249 69 70 1.61136
r250 65 96 0.0188364
r251 65 67 1.64672
r252 62 95 0.0271748
r253 62 64 0.0366859
r254 61 96 0.0271748
r255 61 64 1.97821
r256 57 95 0.0188364
r257 57 59 1.64672
r258 55 94 0.0517365
r259 54 95 0.0271748
r260 49 94 0.0190101
r261 49 51 1.9616
r262 46 47 0.380583
r263 44 93 0.0190101
r264 44 47 1.63871
r265 41 54 0.00940663
r266 41 55 0.696091
r267 32 88 10
r268 31 81 10
r269 29 73 10
r270 27 67 10
r271 25 59 10
r272 24 51 10
r273 23 46 10
r274 2 64 30
.ends

.subckt PM_DFF%E 1 2 6 9 12 16 18 24 29 34 38 39 43 45 47 51 53 55
c121 53 0 1.36731e-19 $X=-0.292 $Y=-0.462
c122 47 0 1.2956e-20 $X=1.484 $Y=-0.873
c123 29 0 4.34193e-19 $X=1.601 $Y=-0.87
c124 24 0 2.13737e-20 $X=1.601 $Y=-0.478
c125 16 0 1.39477e-19 $X=1.601 $Y=-0.949
c126 12 0 0.00227389f $layer1=ptap  $X=-0.548 $Y=-2.111
r127 53 55 1.72541
r128 51 52 0.127301
r129 50 52 0.101038
r130 49 53 0.0489649
r131 49 51 0.116582
r132 45 47 2.18785
r133 41 45 0.0489649
r134 41 43 1.15513
r135 39 40 0.753391
r136 38 50 0.0489649
r137 38 40 0.124987
r138 33 36 0.697842
r139 33 34 0.326354
r140 31 39 0.0489649
r141 31 34 0.350717
r142 27 47 25
r143 27 29 4.66495
r144 22 55 25
r145 22 24 4.40973
r146 19 24 3.2098
r147 18 24 3.2098
r148 17 29 3.03737
r149 17 18 22.5543
r150 16 29 3.03737
r151 12 43 10
r152 9 33 10
r153 9 36 15
r154 6 19 77.4268
r155 4 16 86.1165
r156 2 6 46.5732
r157 1 4 27.3386
.ends

.subckt PM_DFF%C 1 2 3 4 8 14 17 21 25 28 33 35 37 42 47 49 56 61 67 76 77 78 81
+ 87
c156 87 0 1.27313e-19 $X=0.817 $Y=-2.108
c157 81 0 1.45111e-19 $X=0.788 $Y=0.68
c158 47 0 3.35697e-19 $X=-0.4 $Y=-1.62
c159 21 0 0.00110917f $layer1=ptap  $X=1.046 $Y=-2.111
c160 1 0 1.37545e-19 $X=-1.628 $Y=-2.111
r161 85 87 0.443982
r162 81 83 0.39152
r163 79 81 0.410951
r164 77 85 0.0489649
r165 77 78 0.412894
r166 75 78 0.0489649
r167 75 76 0.868534
r168 73 74 0.66063
r169 72 73 0.101841
r170 71 72 0.0308585
r171 69 71 0.0983691
r172 67 79 0.0489649
r173 67 74 0.292793
r174 63 66 0.109942
r175 61 76 0.0489649
r176 61 66 0.509074
r177 58 59 0.196372
r178 57 58 0.00231457
r179 56 59 0.604102
r180 53 57 0.227334
r181 51 69 25
r182 47 63 25
r183 44 47 4.64495
r184 42 53 25
r185 39 42 4.67414
r186 37 51 5.34287
r187 36 49 4.76839
r188 36 37 27.5339
r189 35 49 4.76839
r190 34 44 2.99791
r191 34 35 120.778
r192 33 44 2.99791
r193 30 56 25
r194 28 49 0.647024
r195 28 30 2.67279
r196 26 39 3.13417
r197 25 39 3.13417
r198 21 87 10
r199 17 83 15
r200 17 81 10
r201 14 51 9.99287
r202 12 33 13.1811
r203 8 26 53.6031
r204 6 25 148.214
r205 4 14 46.5732
r206 3 8 46.5732
r207 2 12 27.3386
r208 1 6 27.3386
.ends

.subckt PM_DFF%A 1 2 6 9 13 16 20 25 27 30 31 34 40 42 44 48 50
c103 34 0 2.92424e-19 $X=2.888 $Y=0.68
c104 16 0 1.21124e-21 $layer1=term_out  $X=3.941 $Y=-1.397
c105 13 0 0.00227574f $layer1=ptap  $X=3.13 $Y=-2.111
r106 50 51 0.423566
r107 48 51 0.502273
r108 45 46 0.154293
r109 44 46 0.1192
r110 42 45 0.825143
r111 38 48 0.0489649
r112 38 40 0.640228
r113 34 36 0.39152
r114 32 42 0.0489649
r115 32 34 0.409979
r116 28 31 4.90093
r117 27 31 4.90093
r118 26 30 4.74594
r119 26 27 141.77
r120 25 30 4.74594
r121 22 44 25
r122 20 31 0.707937
r123 20 22 3.44678
r124 18 50 25
r125 16 30 0.636522
r126 16 18 3.9274
r127 13 40 10
r128 9 36 15
r129 9 34 10
r130 6 28 12.0094
r131 4 25 35.4425
r132 2 6 46.5732
r133 1 4 27.3386
.ends

.subckt PM_DFF%B 1 2 3 4 5 8 9 11 14 17 20 24 29 30 36 41 42 47 51 55 62 63 64
+ 69 70 71 75 77 78 80 82 84 88 93 102 106
c256 106 0 1.53266e-19 $X=4.625 $Y=0.674
c257 36 0 6.50256e-19 $X=0.072 $Y=-2.958
c258 29 0 2.8801e-19 $layer1=term_out  $X=3.453 $Y=-1.532
c259 24 0 5.85115e-19 $layer1=term_out  $X=3.421 $Y=-2.936
c260 20 0 0.00227505f $layer1=ptap  $X=4.46 $Y=-2.111
r261 106 108 0.466385
r262 104 106 1.07049
r263 100 102 0.413865
r264 98 99 0.197895
r265 97 98 0.154293
r266 95 97 0.0983691
r267 93 100 0.0489649
r268 93 99 0.21179
r269 90 92 1.03236
r270 88 104 0.0489649
r271 88 92 0.30668
r272 85 86 0.127301
r273 84 86 0.483814
r274 82 85 0.236078
r275 78 80 0.75681
r276 77 82 0.0489649
r277 76 77 1.19788
r278 74 78 0.0489649
r279 74 75 1.1085
r280 72 73 0.154293
r281 71 72 0.392319
r282 70 76 0.0489649
r283 70 73 0.628405
r284 68 71 0.0489649
r285 68 69 1.19788
r286 66 67 0.0891108
r287 65 66 0.154293
r288 64 65 0.576327
r289 63 75 0.0489649
r290 63 67 0.411922
r291 62 64 0.0489649
r292 61 62 1.1357
r293 59 60 0.127301
r294 57 59 0.61594
r295 55 69 0.0489649
r296 55 60 0.513931
r297 51 61 0.0489649
r298 51 53 1.12404
r299 50 95 25
r300 47 90 25
r301 44 47 4.8107
r302 41 84 25
r303 41 42 5.85123
r304 39 57 25
r305 36 53 25
r306 33 36 3.02222
r307 31 44 2.94501
r308 30 44 2.94501
r309 29 50 5.90898
r310 29 30 114.477
r311 26 80 25
r312 24 28 4.28244
r313 24 26 3.43762
r314 23 33 2.70883
r315 20 102 10
r316 17 108 15
r317 17 106 10
r318 15 42 14.0864
r319 14 31 62
r320 12 50 10.155
r321 11 28 46.5248
r322 9 39 11.1811
r323 6 8 217.635
r324 5 23 48.2331
r325 4 15 47.4176
r326 4 14 47.3184
r327 3 9 46.6709
r328 3 8 46.5732
r329 2 12 27.776
r330 2 11 27.776
r331 1 6 27.3386
r332 1 5 27.3386
.ends

.subckt PM_DFF%CLK+ 1 2 3 4 11 17 20 23 25 26 27 29 31 35 38 44 46 55 56 57 61
+ 63 64 67 73 79 83 87 91 92
c190 92 0 1.10306e-19 $X=4.886 $Y=-0.515
c191 83 0 1.66456e-19 $X=4.886 $Y=-0.361
c192 73 0 2.98608e-19 $X=4.886 $Y=-2.116
c193 57 0 1.39477e-19 $X=2.024 $Y=-1.164
c194 44 0 6.19828e-19 $X=3.217 $Y=-1.094
c195 35 0 8.14106e-19 $X=0.67 $Y=-1.473
c196 29 0 1.22969e-19 $X=2.641 $Y=1.664
c197 25 0 1.45111e-19 $X=1.078 $Y=1.664
c198 23 0 6.72083e-20 $X=0.556 $Y=-1.538
c199 20 0 0.00229385f $layer1=ptap  $X=4.99 $Y=-2.111
r200 87 89 0.0709206
r201 82 85 0.466385
r202 82 83 1.19779
r203 80 92 0.0371092
r204 80 83 0.09618
r205 79 92 0.0371092
r206 78 91 0.0371092
r207 78 79 0.452726
r208 76 77 0.127301
r209 75 76 0.135041
r210 73 75 0.328668
r211 71 91 0.0371092
r212 71 77 0.424552
r213 68 89 0.00514677
r214 68 70 0.287568
r215 67 91 0.00964403
r216 67 70 1.56802
r217 65 66 1.38295
r218 64 65 0.775269
r219 63 92 0.00964403
r220 63 66 0.146699
r221 59 64 0.0489649
r222 59 61 0.173901
r223 57 58 0.755706
r224 56 87 0.00514677
r225 56 58 0.130183
r226 54 57 0.0489649
r227 54 55 0.0208311
r228 53 55 0.171958
r229 51 52 0.746763
r230 50 51 0.204934
r231 48 50 0.36529
r232 46 53 0.0489649
r233 46 52 0.153919
r234 44 70 25
r235 41 44 2.19293
r236 38 61 25
r237 38 40 6.64634
r238 35 48 25
r239 32 35 4.34954
r240 31 41 3.03737
r241 26 29 3.46412
r242 26 27 146.261
r243 25 27 3.46412
r244 23 32 3.17218
r245 20 73 10
r246 17 85 15
r247 17 82 10
r248 15 31 64.3433
r249 12 29 30.3654
r250 11 40 55.7512
r251 9 25 30.3654
r252 6 23 28.6079
r253 4 12 46.6709
r254 4 11 46.5732
r255 3 9 46.6709
r256 2 15 27.3386
r257 1 6 27.3386
.ends

.subckt PM_DFF%CLK- 1 2 3 4 5 6 7 16 22 25 28 33 35 39 41 43 49 54 57 63 68 70
+ 76 82 85 92 97 108 109 111 113 121 127 131 132 133
c241 127 0 1.25806e-19 $X=5.67 $Y=0.392
c242 121 0 1.69362e-19 $X=5.672 $Y=-2.116
c243 85 0 3.39529e-20 $X=1.726 $Y=-0.813
c244 76 0 2.13737e-20 $X=1.671 $Y=-1.182
c245 70 0 1.2956e-20 $X=1.671 $Y=-0.027
c246 68 0 6.65004e-19 $X=5.141 $Y=-1.64
c247 54 0 2.0871e-19 $X=2.641 $Y=-0.915
c248 49 0 2.13892e-19 $X=1.159 $Y=-1.18
c249 41 0 2.28105e-19 $X=5.022 $Y=1.798
c250 33 0 6.01049e-20 $X=1.078 $Y=-1.258
c251 28 0 0.00585945f $layer1=ptap  $X=5.569 $Y=-2.111
c252 22 0 5.57119e-20 $X=5.022 $Y=0.398
c253 5 0 1.69455e-19 $X=3.162 $Y=0.875
c254 3 0 1.65126e-19 $X=5.022 $Y=-2.111
r255 126 129 0.466385
r256 126 127 0.326354
r257 124 133 0.0371092
r258 124 127 1.91874
r259 121 123 0.328668
r260 119 133 0.0371092
r261 119 123 0.135041
r262 117 118 0.127301
r263 115 117 0.194303
r264 113 133 0.00964403
r265 113 118 0.159328
r266 109 111 0.613026
r267 108 109 0.0489649
r268 107 108 1.73804
r269 105 106 0.662055
r270 103 104 0.132126
r271 102 103 0.123829
r272 101 102 0.00420798
r273 100 105 0.396948
r274 100 104 0.369173
r275 98 132 0.0371092
r276 98 101 0.921198
r277 97 107 0.0489649
r278 97 106 0.275433
r279 94 95 0.140266
r280 93 94 0.0486059
r281 92 95 0.634191
r282 90 131 0.00964403
r283 90 93 0.0884079
r284 88 89 0.0370331
r285 87 88 0.109407
r286 86 87 0.256917
r287 85 86 0.0718921
r288 84 132 0.00964403
r289 84 89 0.315742
r290 83 131 0.0371092
r291 83 85 0.0300894
r292 81 131 0.0371092
r293 81 82 0.155442
r294 80 82 0.0208311
r295 76 80 0.0489649
r296 76 78 0.573368
r297 74 75 0.513931
r298 72 74 0.324039
r299 70 132 0.0371092
r300 70 75 0.350657
r301 68 115 25
r302 65 68 4.59688
r303 61 111 25
r304 61 63 3.74175
r305 57 100 25
r306 57 59 5.65658
r307 52 92 25
r308 52 54 3.01415
r309 49 78 25
r310 46 49 3.09046
r311 43 72 25
r312 43 45 5.65658
r313 41 63 2.77279
r314 40 65 3.13417
r315 39 65 3.13417
r316 35 54 3.17218
r317 33 46 3.17218
r318 28 121 10
r319 25 129 15
r320 25 126 10
r321 23 41 43.4488
r322 22 40 189.906
r323 20 39 11.9118
r324 16 59 34.3685
r325 14 35 81.4299
r326 11 33 55.9465
r327 7 45 34.3685
r328 6 23 46.6709
r329 6 22 46.5732
r330 5 16 46.5732
r331 4 7 46.5732
r332 3 20 27.3386
r333 2 14 27.3386
r334 1 11 27.3386
.ends

.subckt PM_DFF%VDD! 2 22 23 25 27 29 41 46 52 59 63 69 75 81 89 93 100 104
c203 93 0 2.23165e-19 $X=5.402 $Y=0.674
r204 96 97 0.326354
r205 93 96 0.466385
r206 91 104 0.016797
r207 91 97 1.00746
r208 90 103 0.0291575
r209 89 104 0.0291575
r210 89 90 1.54762
r211 87 88 0.127301
r212 86 87 0.526561
r213 85 86 0.127301
r214 84 85 0.433296
r215 81 84 0.39152
r216 79 103 0.016797
r217 79 88 0.102009
r218 77 78 1.51924
r219 76 102 0.0291575
r220 76 77 0.103952
r221 75 103 0.0291575
r222 75 78 0.0903509
r223 73 74 0.154293
r224 72 73 1.06672
r225 69 72 0.39152
r226 67 102 0.016797
r227 67 74 0.102009
r228 65 66 1.60325
r229 64 101 0.0291575
r230 64 65 0.30797
r231 63 102 0.0291575
r232 63 66 0.098123
r233 59 62 0.39152
r234 57 101 0.016797
r235 57 62 1.2756
r236 53 100 0.0291575
r237 53 55 0.594567
r238 52 101 0.0291575
r239 50 51 0.0208311
r240 49 50 0.375913
r241 46 49 0.565272
r242 44 100 0.016797
r243 44 51 0.995803
r244 41 52 0.382777
r245 41 55 0.106867
r246 29 96 15
r247 29 93 10
r248 27 84 15
r249 27 81 10
r250 25 72 15
r251 25 69 10
r252 23 62 15
r253 23 59 10
r254 22 49 15
r255 22 46 10
r256 2 55 30
.ends

.subckt PM_DFF%R 1 2 3 4 5 8 11 14 20 22 24 29 31 33 37 39 42 44 45 48 49 52 53
+ 58 62 63 65 66 71 72 74 83 89 95 101 103
c188 74 0 1.09955e-19 $layer1=M1_lvsres  $X=-1.201 $Y=-0.553
c189 65 0 6.35776e-19 $X=2.323 $Y=-3.444
c190 58 0 6.04481e-19 $layer1=term_out  $X=1.697 $Y=-3.438
c191 48 0 3.82691e-19 $X=-0.011 $Y=-3.444
c192 44 0 1.29967e-19 $layer1=term_out  $X=-1.203 $Y=-0.548
c193 33 0 2.52145e-19 $layer1=term_out  $X=3.524 $Y=-3.446
c194 2 0 1.33483e-19 $X=4.492 $Y=-2.111
r195 103 107 0.185799
r196 98 101 1.11336
r197 92 95 1.51025
r198 86 89 1.62251
r199 80 83 1.51945
r200 74 107 1.7
r201 74 77 0.00485757
r202 69 95 25
r203 69 71 5.60812
r204 65 98 25
r205 65 66 7.94006
r206 62 63 27.1433
r207 60 89 25
r208 60 62 6.53189
r209 58 66 47.2567
r210 56 83 25
r211 56 58 7.89939
r212 52 86 25
r213 52 53 8.49429
r214 48 80 25
r215 48 49 8.68591
r216 44 77 25
r217 44 46 7.64087
r218 44 45 7.72192
r219 39 41 3.46412
r220 39 72 84.1638
r221 37 42 3.46412
r222 37 71 88.5575
r223 35 101 25
r224 33 72 4.21151
r225 33 35 2.32765
r226 31 92 25
r227 29 63 4.21473
r228 29 31 2.82376
r229 24 53 109.159
r230 22 49 85.5307
r231 20 24 3.46412
r232 17 22 3.46412
r233 15 42 83.0898
r234 12 14 217.635
r235 11 41 99.4929
r236 9 20 83.0898
r237 8 46 78.0126
r238 6 45 110.624
r239 5 17 99.2
r240 4 15 46.6709
r241 4 14 46.5732
r242 3 9 46.6709
r243 3 8 46.5732
r244 2 12 27.3386
r245 2 11 27.3386
r246 1 6 27.3386
r247 1 5 27.3386
.ends

.subckt PM_DFF%D 1 2 6 14 15 18 23
c58 18 0 7.33967e-20 $layer1=M1_lvsres  $X=1.94 $Y=-0.553
c59 14 0 7.81935e-20 $layer1=term_out  $X=1.945 $Y=-0.548
r60 23 27 0.185799
r61 18 27 1.7
r62 18 21 0.00502177
r63 14 21 25
r64 14 16 7.68531
r65 14 15 7.75092
r66 6 16 78.0126
r67 4 15 110.624
r68 2 6 46.5732
r69 1 4 27.3386
.ends

.subckt PM_DFF%CLK 1 2 6 14 15 18 23
c39 18 0 5.80307e-20 $layer1=M1_lvsres  $X=5.355 $Y=-0.553
c40 6 0 7.58366e-20 $X=5.536 $Y=0.398
c41 2 0 1.25806e-19 $X=5.536 $Y=0.875
c42 1 0 1.69362e-19 $X=5.536 $Y=-2.111
r43 23 27 0.185799
r44 18 27 1.7
r45 18 21 0.00485757
r46 14 21 25
r47 14 16 7.68531
r48 14 15 7.75092
r49 6 16 78.0126
r50 4 15 110.624
r51 2 6 46.5732
r52 1 4 27.3386
.ends

